US07635715B2
Step E: Preparation of Ethyl 8-fluoro-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-carboxylate
A flask containing H2SO4 (12 mL, 218 mmol) and P2O5 (12 g, 87 mmol) was cooled in an ice bath for 20 minutes under nitrogen, and then diethyl 2-(4-(2-fluorophenyl)-tetrahydro-2H-pyran-4-carbonyl)malonate (8.0 g, 22 mmol) was added dropwise over 10 minutes. The reaction was stirred an additional 10 minutes at 0° C., and then was stirred at room temperature for 1 hour. The reaction was poured over ice and allowed to melt. The aqueous mixture was extracted with EtOAc (3×100 mL) and then the separated organic extracts were dried (Na2SO4), filtered and concentrated to provide an oil. Flash chromatography (20% EtOAc/hexane) afforded an oil (3.6 g). MS m/e=321.0 (M+H)+.

reactant | H2SO4 | 218 mmol, 12 mL | OS(=O)(=O)O | H2O4S
reactant | P2O5 | 87 mmol, 12 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | diethyl 2-(4-(2-fluorophenyl)-tetrahydro-2H-pyran-4-carbonyl)malonate | 22 mmol, 8.0 g | FC1=C(C=CC=C1)C1(CCOCC1)C(=O)C(C(=O)OCC)C(=O)OCC | C19H23FO6
solvent | EtOAc hexane | CCOC(=O)C.CCCCCC
product | Ethyl 8-fluoro-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-carboxylate | 3.6 g | FC=1C=CC=C2C(=C(C(C3(CCOCC3)C12)=O)C(=O)OCC)O | C17H17FO5
